US09145437B2
Preparation of benzyl 4,9-diazaspiro[5.5]undecane-4-carboxylate hydrochloride
To a 20 L temperature controlled reactor with jacket set at 0° C., add a solution of O4-benzyl O9-tert-butyl 4,9-diazaspiro[5.5]undecane-4,9-dicarboxylate (2.06 moles; 838.00 g; 95.65% purity) in 1,4-dioxane (19.63 moles; 1.68 L). When the temperature of the solution is 5° C., add hydrogen chloride (4 M in 1,4-dioxane; 10.32 moles; 2.58 L) at such a rate that the temperature does not rise above 20° C. When the addition is complete, warm the solution to room temperature and stir overnight. Concentrate the reaction mixture under reduced pressure to give a thick slurry. Add MTBE (3.35 L) and agitate the mixture for 30 minutes at 40° C. Allow the mixture to cool to room temperature and filter the precipitate. Wash the precipitate with MTBE (838 mL). Allow the precipitate to dry on the filter and then transfer to a vacuum oven for further drying to give the title compound (638 g; 95% yield) mass spectrum (m/z):289 [M(freebase)+1].

reactant | O4-benzyl O9-tert-butyl 4,9-diazaspiro[5.5]undecane-4,9-dicarboxylate | 2.06 moles, 838.00 g | C1CCN(CC12CCN(CC2)C(=O)OC(C)(C)C)C(=O)OCC2=CC=CC=C2 | C22H32N2O4
reactant | 1,4-dioxane | 19.63 moles, 1.68 L | O1CCOCC1 | C4H8O2
reactant | hydrogen chloride | 10.32 moles, 4 M, 2.58 L | Cl | ClH
solvent | MTBE | 3.35 L | CC(C)(C)OC | C5H12O
product | benzyl 4,9-diazaspiro[5.5]undecane-4-carboxylate hydrochloride | 638 g, 95% yield | Cl.C1CCN(CC12CCNCC2)C(=O)OCC2=CC=CC=C2 | InChI=1S/C17H24N2O2.ClH/c20-16(21-13-15-5-2-1-3-6-15)19-12-4-7-17(14-19)8-10-18-11-9-17;/h1-3,5-6,18H,4,7-14H2;1H
